US09339502B2
Step 1: 5-Methoxy-1-methylene-1,2,3,4-tetrahydro-naphthalene:
To a slurry of 5-Methoxy-3,4-dihydro-2H-naphthalen-1-one (25 g, 0.14 mol) and methyltriphenylphosphonium iodide (1.13 eq) in THF (250 mL) at RT was added potassium t-butoxide (1.6 eq) at such a rate as to maintain a temperature no higher than warm to the touch. The reaction was stirred for one hour and concentrated. The reaction was then azeotroped with three volumes of hexane to remove excess t-butanol. Fresh hexane was added the solution was let to stand overnight to effect trituration. The red-brown solid was removed by filtration and the filtratewas washed twice with water and was concentrated. Purification by chromatography on ISCO (330 g SiO2 cartridge: stepwise hexane and then DCM) affords the title compound as a pale yellow oil (24 g, 99%). 1H-NMR (400 MHz, CDCl3) 7.29 (d, J=8.0 Hz, 1H), 7.15 (t, J=8.0 Hz, 1H), 6.76 (d, J=8.0 Hz, 1H), 5.49 (s, 1H), 4.98 (s, 1H), 3.85 (s, 3H), 2.77 (t, J=6.4 Hz, 2H), 2.53-2.50 (m, 2H), 1.93-1.87 (m, 2H).

reactant | 5-Methoxy-3,4-dihydro-2H-naphthalen-1-one | 0.14 mol, 25 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | methyltriphenylphosphonium iodide | 1.13 eq | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 1.6 eq | CC(C)([O-])C.[K+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-1-methylene-1,2,3,4-tetrahydro-naphthalene | 24 g, 99% | COC1=C2CCCC(C2=CC=C1)=C | C12H14O
